US06090518
Into a 1 L four necked flask equipped with a nitrogen supply tube, a stirrer and a thermometer, 12.1 g of paraformaldehyde and 60 g of toluene were mixed and stirred, and then 120 mL of concentrated hydrochloric acid was added thereto. Thereafter, the reaction solution was heated to 40° C., and 60 g of a toluene solution containing 35.4 g of cyclohexanethiol was added over a period of 20 minutes. After completion of the dropwise addition, the reaction solution was stirred while maintaining it at 50° C. After confirming the completion of the reaction by TLC, the water phase was discharged, and the organic phase was made alkaline with a saturated sodium carbonate aqueous solution to obtain a toluene solution of chloromethylcyclohexylsulfide.

reactant | paraformaldehyde | 12.1 g | C=O | CH2O
reactant | hydrochloric acid | 120 mL | Cl | ClH
reactant | cyclohexanethiol | 35.4 g | C1(CCCCC1)S | C6H12S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
product | chloromethylcyclohexylsulfide | ClCSC1CCCCC1 | C7H13ClS
